US06147090
6-Fluoro-4-hydroxyimino-2-methyl-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester.
A stirred solution of 6-fluoro-2-methyl-4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester (940 mg, 2.8 mmol), hydroxylamine hydrochloride (215 mg, 3.1 mmol), and sodium acetate (254 mg, 3.1 mmol) in ethanol (20 mL) was heated at reflux for 3 h. Water (25 mL) was added, and the volatiles were removed in vacuo. Ethyl acetate (100 mL) was added, and the mixture was stirred vigorously for 10 min. The aqueous phase was separated and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (100 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give the title compound as a white foam (937 mg, ca. 100%): 1H NMR (CDCl3) δ 1.1 (d, 3H), 1.28 (d, 3H), 1.34 (d, 3H), 2.73 (dd, 1H), 3.09 (d, 1H), 5.0-5.1 (m, 2H), 7.68 (d, 1H), 7.88 (s, 1H).

reactant | 6-fluoro-2-methyl-4-oxo-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester | 2.8 mmol, 940 mg | C(C)(C)OC(=O)N1C(CC(C2=CC(=C(C=C12)C(F)(F)F)F)=O)C | C15H15F4NO3
reactant | hydroxylamine hydrochloride | 3.1 mmol, 215 mg | Cl.NO
reactant | sodium acetate | 3.1 mmol, 254 mg | C(C)(=O)[O-].[Na+]
reactant | Water | 25 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-Fluoro-4-hydroxyimino-2-methyl-7-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester | 937 mg, ca. 100% | C(C)(C)OC(=O)N1C(CC(C2=CC(=C(C=C12)C(F)(F)F)F)=NO)C | C15H16F4N2O3
